Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Rigors, GNR bacteremia
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ with limited pmhx aside from recent dx of T1cN0Mx stage
I carcinoma of the R breast (awaiting tx) here with rigors and
GNR bacteremia.

Patient states she initially developed symptoms of sore throat,
rigors, intermittent cough, malaise and myalgias approx ___, 
>2
weeks prior to admission. Also noting mild b/l occipital HA
without associated neck stiffness or photophobia.
No joint pains, rashes, cut/sores (initially, see below).
Of note she had dental implants to a few of her left lower teeth
___ yrs ago but denies any loose teeth or dental pain.
 She reports a few sick contacts at work.  She has been taking
Nyquil, Tylenol with modest benefit.

Two days after symptom onset she initiated travel to the
___ ___ to ___. Limited workup there included a UA 
which
was reportedly noninfectious. Pt states she was not tested for
GAS. She was given 3d of Azithromycin (last day ___ with
transient improvement in symptoms. She was actually feeling well
enough in the interim to complete an 8 mile run.
She notably slipped on a deck during her trip and suffered 3
total abrasions to her dorsal L foot and L knee for which she 
has
been applying Neosporin.
Unfortunately, upon return to US she continued to have recurrent
symptoms including cold, rigors, sore throat, HAs.

Pt presented to her PCP ___ ___ (2d PTA) with the above symptoms,
noted to be ill-appearing, actively rigoring, T 99.8, but
otherwise HDS. She was recommended to present to the ED for eval
but declined.
Bcx and routine labs drawn at that time were notable for WBC 21,
___ bcx growing GNRs. She was given a 5d course of Azithro for 
tx
of ?PNA, again with improvement in her symptoms but was  called
on the day of admission when her Bcx returned positive and urged
to present to the ED. 

Pertinent ED course:
Subj: Symptoms improved since initiation of Azithro at ___
office
___:
T 99.7 P  80 RR 18 SPO2 100% RA
Exam: Well appearing, LCTA, abd soft, No CVAT
Labs:(trends from 2d PTA where appropriate)
WBC 21-->15
Hgb 12.1-->10.9
15>10.___<470
INR 1.4
138 96 8 Glucose 86
4.4 26 0.7
Liver labs wnl
TSH 3.1 Lactate 0.8
UA WBC 16 RBC 63 mod leuks, Nitrite Pos UCG  Negative
Micro:
Flu A/B Negative
Ucx: Pending
Blood culture
___: GNR
___ Pending
Meds: APAP, Ctx 1g, 1L LR
Impression/Course:
GNR bacteremia with recent URI symptoms improving with 
outpatient
Azithro course. 
D/w ___ rec'd admission to ___ as pt not initiated therapy.

Upon arrival to the floor, the patient reports to be feeling 
well
without any fevers, pain, sob, n/v, rigors, muscle pain,
abdominal pain, diarrhea new rahses. Asking when she can go 
home.
 
___ d/w ID fellow, rec'd covering with Zosyn if low suspicion
for meningitis given GNR growing in anerobic bottle + formal ID
consult in the AM. Hold on additional imaging pending further
speciation.

REVIEW OF SYSTEMS:  
14 pt ROS otherwise negative except as outline above
 
Past Medical History:
Recent dx of invasive carcinoma of the R breast with
predominantly lobular features, plan for a partial mastectomy
followed by radiation/endocrine therapy (Dr. ___
Otherwise no significant pmhx
 
Social History:
___
Family History:
Father living, glaucoma and melanoma at age ___.  
One brother deceased from lung cancer
Mother deceased at age ___, sepsis. 
 
Physical Exam:
ADMISSION EXAM:
T 97.6 PO 104 / 65 87 18 100 Ra 
GENERAL: Well appearing in nad. Appears stated age.
EYES: Wearing glasses. EOMI, PERRL
ENT: OP clear, mild erythema of posterior OP without exudate
Overall good dentition. No loose teeth. L lower teeth at site of
implants without tenderness to palpation, erythema
CV: RRR, no mrgs appreciated on exam
RESP: LCTA, no w/r/r
GI: Abd soft, NTND, +BS
GU: No foley, otherwise deferred
MSK:  No joint swelling, erythema, warmth. Negative psoas sign
SKIN: NO rashes; 3 superficial abrasions including the L knee,
and dorsal aspect of L foot. Each ~ 2 x 2 cm, healing well with
mild surrounding erythema.
NEURO: Strength and sensation of b/l UE and ___ grossly intact.
No spinal tenderness. No nuchal rigidity. Negative kernig and
brudzinski signs
PSYCH: Alert and oriented 3x

DISCHARGE EXAM:
VITALS: ___ 1557 Temp: 98.0 PO BP: 106/75 L HR: 84 RR: 18 
O2 sat: 98% O2 delivery: RA 
GENERAL: NAD, appears well
EYES: EOMI, PERRL
ENT: OP clear, mild erythema of posterior OP without exudate, 
good dentition
CV: RRR, no mrgs appreciated on exam
RESP: LCTA, no w/r/r
GI: Abd soft, NTND, +BS
MSK:  No joint swelling, erythema, warmth. Negative psoas sign
SKIN: NO rashes; 3 superficial abrasions including the L knee, 
and dorsal aspect of L foot. Each ~ 2 x 2 cm, healing well with 
mild surrounding erythema.
NEURO: Strength and sensation of b/l UE and ___ grossly intact.
PSYCH: Alert and oriented 3x

 
Pertinent Results:
LABS:
___ 12:44PM BLOOD WBC-15.0* RBC-3.60* Hgb-10.9* Hct-34.8 
MCV-97 MCH-30.3 MCHC-31.3* RDW-13.0 RDWSD-46.4* Plt ___
___ 12:44PM BLOOD Neuts-73.6* Lymphs-16.6* Monos-8.4 
Eos-0.3* Baso-0.2 Im ___ AbsNeut-11.03* AbsLymp-2.48 
AbsMono-1.26* AbsEos-0.05 AbsBaso-0.03
___ 06:55AM BLOOD WBC-11.1* RBC-3.45* Hgb-10.5* Hct-33.0* 
MCV-96 MCH-30.4 MCHC-31.8* RDW-13.0 RDWSD-45.9 Plt ___
___ 12:44PM BLOOD ___ PTT-30.3 ___
___ 12:44PM BLOOD Glucose-88 UreaN-8 Creat-0.6 Na-136 K-4.3 
Cl-98 HCO3-26 AnGap-12
___ 12:44PM BLOOD Albumin-3.5 Calcium-9.1 Phos-4.1 Mg-2.1
___ 06:55AM BLOOD Glucose-88 UreaN-6 Creat-0.6 Na-143 K-4.9 
Cl-105 HCO3-24 AnGap-14
___ 06:55AM BLOOD Calcium-9.2 Iron-32
___ 12:44PM BLOOD ALT-9 AST-13 AlkPhos-68 TotBili-0.2
___ 06:55AM BLOOD LD(LDH)-113
___ 12:44PM BLOOD Lipase-14
___ 06:55AM BLOOD calTIBC-207* Ferritn-197* TRF-159*
___ 12:57PM BLOOD Lactate-0.8

MICRO:
BCx (___): Blood Culture, Routine (Preliminary): 
      ESCHERICHIA COLI.    FINAL SENSITIVITIES. 
         Cefazolin interpretative criteria are based on a dosage 
regimen of
         2g every 8h. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             ESCHERICHIA COLI
                             |   
AMPICILLIN------------   <=2 S
AMPICILLIN/SULBACTAM--   <=2 S
CEFAZOLIN-------------   <=4 S
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----   <=1 S

BCx (___): no growth to date

BCx (___): no growth to date x2

UCx (___):
URINE CULTURE (Final ___: 
      ESCHERICHIA COLI.    >100,000 CFU/mL.  PRESUMPTIVE 
IDENTIFICATION. 
         CEFTRIAXONE test result confirmed by ___. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             ESCHERICHIA COLI
                             |   
AMPICILLIN------------  =>32 R
AMPICILLIN/SULBACTAM--     8 S
CEFAZOLIN-------------  =>___ R
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------     4 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------     1 S
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
NITROFURANTOIN--------  <=16 S
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----   <=1 S

IMAGING:
CXR: IMPRESSION: 
No acute cardiopulmonary abnormality.
 
Brief Hospital Course:
SUMMARY: ___ with limited pmhx aside from recent dx of T1cN0Mx 
stage I carcinoma of the R breast (awaiting tx) here with 
leukocytosis, anerobic GNR bacteremia in the setting of ongoing
rigors, malaise, URI symptoms despite multiple recent courses of 
outpatient Azithromycin, found to have an E.coli UTI and E.coli 
bacteremia.

HOSPITAL COURSE BY PROBLEM:

# E.coli bacteremia
# E.coli UTI
The patient presented with over 2 weeks of incompletely resolved 
symptoms of rigors, muscle aches, occipital HA, malaise despite 
2 course of empiric Azithromycin, found to have GNR bacteremia. 
Her exam showed no localizing signs of infection. Her blood 
cultures from ___ grew
anerobic GNRs in ___ bottles and her WBC was quite high 
(initially 21).
Negative workup included clear CXR, negative Flu. No diarrhea. 
Her liver labs were wnl. Her blood cultures and urine culture 
both grew pansensitive E.coli. She was initially treated with 
Zosyn, but when the cultures came back she was transitioned to 
ciprofloxacin 500 mg BID for 14 days. ID was consulted during 
this admission. They recommend that she had an outpatient 
renal/GU ultrasound. She will follow up with her PCP ___ ___.
[ ] Pt should have a renal ultrasound as an outpatient to eval 
for abscess/stone/other nidus for infection. She was not willing 
to stay in the hospital to have this done but agreed to have it 
as an outpatient.

#Normocytic anemia:
Hgb 10.9, b/l closer to ___, suspected ___ AOCD iso ongoing 
infection and malignancy.

#T1cN0Mx stage I invasive carcinoma of the R breast:
Plan for a partial mastectomy followed by radiation/endocrine 
therapy with Dr. ___ more stable.

TRANSITIONAL ISSUES:
[ ] Pt should have a renal ultrasound as an outpatient to eval 
for abscess/stone/other nidus for infection. She was not willing 
to stay in the hospital to have this done but agreed to have it 
as an outpatient.

>30 minutes spent on complex discharge
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  Ciprofloxacin HCl 500 mg PO Q12H 
RX *ciprofloxacin HCl 500 mg 1 tablet(s) by mouth every twelve 
(12) hours Disp #*28 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Gram negative rod bacteremia
E.coli UTI

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___ were admitted to the hospital with bacteremia. ___ were also 
found to have a urinary tract infection. It is likely that the 
bacteremia originated from the urinary tract. ___ should take 
ciprofloxacin for 2 weeks to eradicate the bacteria in your 
bloodstream.
Follow up with your primary care doctor, ___, on ___ as previously scheduled.
Best wishes for your continued health.
Take care,
Your ___ Care Team

 
Followup Instructions:
___